US08198271B2
N-(4-t-Butoxycarbonylaminothiophen-3-yl)-4-[3-(morpholin-4-yl)propylaminomethyl]benzamide (Reference Compound No. 5-2)
Under ice cooling, methanesulfonyl chloride (0.37 mL, 4.8 mmol) was added to a solution of N-(4-t-butoxycarbonylaminothiophen-3-yl)-4-hydroxymethylbenzamide (Reference Compound No. 3-2, 1.51 g, 4.3 mmol) and triethylamine (1.5 mL, 11 mmol) in anhydrous dichloromethane (70 mL), and the reaction mixture was stirred for 1.5 hours. Acetonitrile (50 mL) and N-(3-aminopropyl)morpholin (3.1 mL, 21 mmol) were added to the reaction solution and the mixture was stirred at room temperature overnight. Water (0.20 L) and ethyl acetate (0.20 L) were added to the reaction solution, and then the mixture was partitioned. The organic layer was washed with brine (0.20 L), dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-methanol) to give 0.81 g of the title reference compound as yellow oil. (Yield 39%)

reactant | methanesulfonyl chloride | 4.8 mmol, 0.37 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-t-butoxycarbonylaminothiophen-3-yl)-4-hydroxymethylbenzamide | 4.3 mmol, 1.51 g | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(C1=CC=C(C=C1)CO)=O | C17H20N2O4S
reactant | triethylamine | 11 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | N-(3-aminopropyl)morpholin | 21 mmol, 3.1 mL | NCCCN1CCOCC1 | C7H16N2O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 0.20 L | C(C)(=O)OCC | C4H8O2
solvent | Water | 0.20 L | O | H2O
solvent | Acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-(4-t-Butoxycarbonylaminothiophen-3-yl)-4-[3-(morpholin-4-yl)propylaminomethyl]benzamide | Yield 39% | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(C1=CC=C(C=C1)CNCCCN1CCOCC1)=O | C24H34N4O4S
